US06903129B2
A mixture of 400 mg (0.9 mmol) (12R,25R)-14,23-dioxa-1,8-diaza-tricyclo[23.3.0.0 8,12]octacos-18-ene-2,7,13,24-tetraone and 40 mg 10% palladium/carbon in 10 ml ethylacetate was hydrogenated over night. Filtration and removal of the solvent yielded 245 mg (61%) (12R,25R)-14,23-dioxa-1,8-diaza-tricyclo[23.3.0.0 8,12]octacosane-2,7,13,24-tetraone as a white solid, MS m/e (%): 451 (M+H+, 100).

reactant | (12R,25R)-14,23-dioxa-1,8-diaza-tricyclo[23.3.0.0 8,12]octacos-18-ene-2,7,13,24-tetraone | 0.9 mmol, 400 mg | N12C(CCCCC(N3CCC[C@@H]3C(OCCCC=CCCCOC([C@H]2CCC1)=O)=O)=O)=O | C24H36N2O6
solvent | ethylacetate | 10 ml | C(C)OC(C)=O | C4H8O2
catalyst | palladium/carbon | 40 mg | [Pd] | Pd
product | (12R,25R)-14,23-dioxa-1,8-diaza-tricyclo[23.3.0.0 8,12]octacosane-2,7,13,24-tetraone | 245 mg, 61% | N12C(CCCCC(N3CCC[C@@H]3C(OCCCCCCCCOC([C@H]2CCC1)=O)=O)=O)=O | C24H38N2O6
